US08211914B2
To 4-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-benzoic acid ethyl ester (130 mg, 0.23 mmol) dissolved in a 1:1 mixture of THF/methanol (2 mL) was added 1N LiOH (2.60 mL, 2.60 mmol). The mixture was stirred at rt overnight. The crude mixture was acidified to pH=1 and purified by HPLC to give 4-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-benzoic acid. The NMR spectrum obtained on the sample is compatible with its structure. LCMS calcd for C27H22F3N5O4 (m/e) 537, obsd 538 (M+H).

reactant | 4-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-benzoic acid ethyl ester | 0.23 mmol, 130 mg | C(C)OC(C1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C29H26F3N5O4
reactant | LiOH | 2.60 mmol, 1N, 2.60 mL | [Li+].[OH-]
solvent | THF methanol | 2 mL | C1CCOC1.CO
product | 4-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-benzoic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC=1C=CC(=NC1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C27H22F3N5O4
